US05360811
To a solution of 3-bromobenzaldehyde (26.5 g) and (25.0 g) 1-dodecyne in triethylamine (105 ml) was added bis(triphenylphosphine)palladium(II) chloride (1.73 g) followed by copper(I) iodide (0.24 g). The resultant mixture was stirred in the dark at 55° C. for 7 hrs, under nitrogen. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and filtered. The filtrate was washed with water and saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered, and concentrated to yield 37.7 g 3-(1-dodecynyl)benzaldehyde. The filtrate was an oil.

reactant | 3-bromobenzaldehyde | 26.5 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 1-dodecyne | 25.0 g | C#CCCCCCCCCCC | C12H22
solvent | triethylamine | 105 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.73 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.24 g | [Cu]I
product | 3-(1-dodecynyl)benzaldehyde | 37.7 g | C(#CCCCCCCCCCC)C=1C=C(C=O)C=CC1 | C19H26O
